US05204364
A mixture of 5,6-dihydro-7(1H-imidazol-1-yl)-8-methyl-2-naphthalenecarboxylic acid (1.5 g), 10% palladium on activated carbon (0.65 g), ethanol 95% (100 ml), glacial acetic acid (30 ml) and concentrated hydrochloric acid (10 ml) is hydrogenated for 8 hours at room temperature in a Parr-Burgess low pressure apparatus at an initial pressure of 50 psi. At the end of this time the theoretical amount of hydrogen has been absorbed. The catalyst is filtered off, washed with 95% ethanol, and the solution is evaporated under reduced pressure. The solid residue is crystallized from 95% ethanol-ethyl ether mixture, giving 1.4 g of 5,6,7,8-tetrahydro-7-(1H-imidazol-1-yl)-8-methyl-2-naphthalenecarboxylic acid hydrochloride.

reactant | 5,6-dihydro-7(1H-imidazol-1-yl)-8-methyl-2-naphthalenecarboxylic acid | 1.5 g | N1(C=NC=C1)C=1CCC=2C=CC(=CC2C1C)C(=O)O | C15H14N2O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 10 ml | Cl | ClH
catalyst | palladium on activated carbon | 0.65 g | [Pd] | Pd
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5,6,7,8-tetrahydro-7-(1H-imidazol-1-yl)-8-methyl-2-naphthalenecarboxylic acid hydrochloride | 1.4 g | Cl.N1(C=NC=C1)C1CCC=2C=CC(=CC2C1C)C(=O)O | InChI=1S/C15H16N2O2.ClH/c1-10-13-8-12(15(18)19)3-2-11(13)4-5-14(10)17-7-6-16-9-17;/h2-3,6-10,14H,4-5H2,1H3,(H,18,19);1H
